US20010003749A1
Following the procedures described in the Example 1, Step C, the reaction of 3-benzoyl-3-phenylbutyraldehyde (0.32 g) and 1-(2-methoxyphenyl)piperazine (0.23 g) with sodium triacetoxyboranehydride (0.33 g) gave pure product 1-(2-methoxyphenyl)-4-[3-(benzoyl)-3-(phenyl)butyl]piperazine (0.12 g). The oxalate salt was prepared as described above.

reactant | 3-benzoyl-3-phenylbutyraldehyde | 0.32 g | C(C1=CC=CC=C1)(=O)C(CC=O)(C)C1=CC=CC=C1 | C17H16O2
reactant | 1-(2-methoxyphenyl)piperazine | 0.23 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium | [Na] | Na
product | 1-(2-methoxyphenyl)-4-[3-(benzoyl)-3-(phenyl)butyl]piperazine | 0.12 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C)(C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C28H32N2O2
